US08258144B2
To a mixture of 2-chloro-N-(4-fluorophenyl)-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (230 mg, 0.423 mmol), pyridine-4-boronic acid (57 mg, 0.463 mmol) and Pd(Ph3P)2Cl2 (30 mg, 0.042 mmol) in dioxane (4 mL), aq. Na2CO3 (135 mg, 1.27 mmol) (1.0 mL) was added. The mixture was stirred at 100° C. for 2 h. It was concentrated in vacuo. The residue was triturated. The solid was collected by filtration (86 mg). The filtrate was purified by HPLC to give 2-chloro-N-(4-fluorophenyl)-5-(pyridin-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (31 mg).

reactant | 2-chloro-N-(4-fluorophenyl)-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.423 mmol, 230 mg | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C(C=C2)F | C19H13ClFIN4O2S
reactant | pyridine-4-boronic acid | 0.463 mmol, 57 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 1.27 mmol, 1.0 mL, 135 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)2Cl2 | 0.042 mmol, 30 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-chloro-N-(4-fluorophenyl)-5-(pyridin-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 31 mg | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=NC=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C(C=C2)F | C24H17ClFN5O2S
